US05942544
Preparation of 4-(aminoiminomethyl)-beta-[3-(aminoiminomethyl)phenyl]benzenepentanoic acid dihydrochloride
Methyl 4-(aminoiminomethyl)-beta-[3-(aminoiminomethyl) phenyl]benzene pentanoate bis(trifluoroacetate) (0.030 gm, 0.08 mmol) was dissolved in 0.5 mL of 6 N HCl under N2 and stirred at room temperature for 48 hrs. The solution was concentrated to give the title compound as a white solid 0.018 gm (66%). Mp >200° C. (dec); MS: (M+H)+ 339; 1H NMR (DMSO-d6): 2.0 (m, 2H), 2.5 (m, 2H), 2.7 (dd, 1H), 2.85 (dd, 1H), 3.15(m, 1H), 7.40 (d, 2H), 7.55 (m, 2H), 7.75 (m, 4H), 9.1 (d, 4H), 9.25 (d, 4H).

reactant | Methyl 4-(aminoiminomethyl)-beta-[3-(aminoiminomethyl) phenyl]benzene pentanoate bis(trifluoroacetate) | 0.08 mmol, 0.030 gm | FC(C(=O)O)(F)F.FC(C(=O)O)(F)F.NN=CC1=CC=C(C=C1)CCC(CC(=O)OC)C1=CC(=CC=C1)C=NN
reactant | HCl | 6 N, 0.5 mL | Cl | ClH
product | 4-(aminoiminomethyl)-beta-[3-(aminoiminomethyl)phenyl]benzenepentanoic acid dihydrochloride | 0.018 gm, 66% | Cl.Cl.NN=CC1=CC=C(C=C1)CCC(CC(=O)O)C1=CC(=CC=C1)C=NN | InChI=1S/C19H22N4O2.2ClH/c20-22-12-15-6-4-14(5-7-15)8-9-18(11-19(24)25)17-3-1-2-16(10-17)13-23-21;;/h1-7,10,12-13,18H,8-9,11,20-21H2,(H,24,25);2*1H
